US09326973B2
To a mixture of benzyl 5-hydroxy-2-methyltetrahydro-2H-pyran-2-carboxylate (1.1 g, 3.52 mmol) and molecular sieves (4 Å, 2 g, powdered) in DCM (20 mL) was added PCC (1.137 g, 5.27 mmol) in two portions at 0° C. The reaction mixture was stirred at rt for 17 h. The reaction mixture was directly loaded and purified on a 40 g silica gel cartridge (EtOAc/Hexane: 0 to 40%) to yield benzyl 2-methyl-5-oxotetrahydro-2H-pyran-2-carboxylate (0.47 g). 1H NMR (400 MHz, CDCl3) ppm 7.45-7.31 (m, 5H), 5.25 (s, 2H), 4.27 (d, J=17.6 Hz, 1H), 4.07 (d, J=17.3 Hz, 1H), 2.59-2.34 (m, 3H), 2.14-2.04 (m, 1H), 1.56 (s, 3H).

reactant | benzyl 5-hydroxy-2-methyltetrahydro-2H-pyran-2-carboxylate | 3.52 mmol, 1.1 g | OC1CCC(OC1)(C(=O)OCC1=CC=CC=C1)C | C14H18O4
reactant | PCC | 5.27 mmol, 1.137 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | benzyl 2-methyl-5-oxotetrahydro-2H-pyran-2-carboxylate | 0.47 g | CC1(OCC(CC1)=O)C(=O)OCC1=CC=CC=C1 | C14H16O4
